US07662845B2
a) 2-(4-Bromo-phenyl)-propylamine
2-Phenyl-propylamine (1 g, 7.4 mmol) was dissolved in n-hexane (30 mL) and HBr/aq (5 drops) together with ZnBr on silica (1.75 mmol/g, 1 g). Br2 (14.8 mmol, 900 μL) was slowly added and the slurry was stirred over night. The slurry was diluted with ethyl acetate (300 mL) and washed with 2M Na2CO3 (300 mL). The organic phase was dried over Na2SO4, filtered and evaporated to dryness. Purification and separation of regioisomers was done on semi prep-HPLC C18-column (H2O:CH3CN, 1% NH4OAc buffer, gradient 10% to 60% CH3CN, 30 min). Yield 23%

reactant | 2-Phenyl-propylamine | 7.4 mmol, 1 g | C1(=CC=CC=C1)C(CN)C | C9H13N
reactant | Br2 | 14.8 mmol, 900 μL | BrBr | Br2
solvent | n-hexane | 30 mL | CCCCCC | C6H14
catalyst | HBr | 5 drops | Br | BrH
solvent | ethyl acetate | 300 mL | C(C)(=O)OCC | C4H8O2
product | 2-(4-Bromo-phenyl)-propylamine | Yield 23% | BrC1=CC=C(C=C1)C(CN)C | C9H12BrN
